US08080568B1
Preparation of 3-((4-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-5-(6-methylpyridin-2-yl)-1H-imidazol-2-yl)methyl)benzamide (Example 147)
To a stirred solution of 3-((4-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-5-(6-methylpyridin-2-yl)-1H-imidazol-2-yl)methyl)benzonitrile (41 mg, 0.10 mmol) in EtOH (2 mL) were added 28% H2O2 (13.9 mL, 0.11 mmol) and 1N NaOH (0.39 mL, 0.39 mmol) at room temperature. The mixture was heated to at 60° C. for 1 h and then, to it, was added 1 N HCl at 0° C. to adjust pH 7-8. After removal of the solvent, the residue was extracted with CH2Cl2 (2×15 mL). The CH2Cl2 solution was washed with water (5 mL) and brine (5 mL), dried over anhydrous Na2SO4, filtered, and evaporated to dryness under reduced pressure. The residue was purified by MPLC on silica gel using a mixture of MeOH and CH2Cl2 (1:9 (v/v)) as eluent to give the titled compound (15 mg, 35%) as a yellow solid. 1H NMR (400 MHz, CDCl3) δ 8.93 (br s, 1H), 8.32 (s, 1H), 7.77 (s, 1H), 7.76 (dd, 1H, overlapped, J=9.2, 1.6 Hz), 7.69 (d, 1H, J=9.2 Hz), 7.56 (d, 1H, J=8.0 Hz), 7.44 (t, 1H, J=7.6 Hz), 7.39 (d, 1H, J=7.6 Hz), 7.26 (t, 1H, J=8.0 Hz), 7.21 (d, 1H, J=7.6 Hz), 6.98 (d, 1H, J=7.6 Hz), 6.60 (br s, 1H), 6.27 (br s, 1H), 4.15 (s, 2H), 2.44 (s, 3 H); MS (ESI) m/z 410.19 (MH+).

reactant | 3-((4-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-5-(6-methylpyridin-2-yl)-1H-imidazol-2-yl)methyl)benzonitrile | 0.10 mmol, 41 mg | N=1C=NN2C1C=CC(=C2)C=2N=C(NC2C2=NC(=CC=C2)C)CC=2C=C(C#N)C=CC2 | C23H17N7
reactant | H2O2 | 0.11 mmol, 13.9 mL | OO | H2O2
reactant | NaOH | 0.39 mmol, 1N, 0.39 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | EtOH | 2 mL | CCO | C2H6O
product | 3-((4-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-5-(6-methylpyridin-2-yl)-1H-imidazol-2-yl)methyl)benzamide | 15 mg, 35% | N=1C=NN2C1C=CC(=C2)C=2N=C(NC2C2=NC(=CC=C2)C)CC=2C=C(C(=O)N)C=CC2 | C23H19N7O
